US07652022B2
Stage 132.3: (Piperidin-1-yl)-(3-nitro-5-trifluormethyl-phenyl)-methanone
Prepared from 3-nitro-5-trifluormethyl-benzoic acid and piperidine (TPTU, CH2Cl2/CH3CN, Et3N): MS: [M+1]+=303; TLC Rf=0.27 (hexane/AcOEt 7:3).

reactant | 3-nitro-5-trifluormethyl-benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F3NO4
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | hexane AcOEt | CCCCCC.CCOC(=O)C
product | (Piperidin-1-yl)-(3-nitro-5-trifluormethyl-phenyl)-methanone | N1(CCCCC1)C(=O)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C13H13F3N2O3
